Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:5].[O:1][O:2]/[C:3]([H:4])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-1.84581123224
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[H:11],2.16129778476
[C:1]#[C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][H:11]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:7]([H:8])([H:9])[O:10][H:11].[H:6],3.95515852969
[O:1][C:2]([H:3])([H:4])/[C:5]([H:6])=[C:7](\[H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:9][C:10]([H:11])([H:12])[H:13].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])=[C:7][H:8],4.4550961635
[C:1]#[C:2][O:3][C:4][O:5][C:6]([H:7])[H:8].[H:9]>>[C:1]#[C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],-4.90943659624
[C:1]=[C:2]([C:3](=[O:4])[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:1]#[C:2][C:9]([H:10])([H:11])[H:12].[C:3](=[O:4])[C:5]([H:6])([H:7])[H:8],2.9046784535500003
[C:12]([H:13])([H:14])[H:15].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[H:1]/[C:2](=[C:3]\[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.49119257687
[H:1][O:2][C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11]>>[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3],3.0621736581299994
[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])=[C:5]=[C:7]([H:8])[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:6],4.55055819684
[C:1][O:2]/[C:3](=[C:4](/[H:5])[C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:1]=[O:2].[C:3](=[C:4](\[H:5])[C:6]([H:7])([H:8])[H:9])\[C:10]([H:11])([H:12])[H:13],-1.07812741004
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:11]([H:12])([H:13])[H:14].[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:8]([H:9])[H:10],4.39110653762
[H:1][O:2]/[C:3]([H:4])=[C:6](\[O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.93705152709
[C:9]([H:10])([H:11])[H:12].[H:1][O:2][C:3]([H:4])([H:5])[C:6](=[C:7][H:8])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.57690776517
[C:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12].[O:1][C:2]#[C:3][H:4]>>[O:1]=[C:2]=[C:3]([H:4])[C@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12],-3.97404643821
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[H:11]>>[C:7][C:8]([H:9])([H:10])[H:11].[O:1]=[C:2]([H:3])[C:4]([H:5])[H:6],3.35600708646
[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3](=[C:4][C:5]([H:6])([H:7])[H:8])[O:9][H:10]>>[H:1][O:2][C:3]([C:4][C:5]([H:6])([H:7])[H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-1.3922912173299995
[C:3]([H:4])(=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11].[O:1]=[O:2]>>[O:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[H:11],1.09758389
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][C:10]([H:11])([H:12])[C:13]([H:14])[H:15].[H:9],1.87367017031
[C:1]#[C:2][O:3][C:4][C:6]([H:7])([H:8])[H:9].[H:5]>>[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[H:9],-4.89059608339
[H:8].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:9]=[C:10]([H:11])[H:12]>>[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]=[C:10]([H:11])[H:12],-1.7832308846400002
[C:8]([H:9])[H:10].[H:1][C:2][O:3][C:4]([H:5])=[C:6]=[O:7]>>[H:1][C:2][O:3]/[C:4]([H:5])=[C:6]/[O:7][C:8]([H:9])[H:10],-1.98916542425
[H:1][C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[O:10][C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])[O:4][C:5]([H:6])=[C:7]([H:8])[H:9].[O:10]=[C:11]([H:12])[H:13],-1.30000080548
[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])[O:10][C:11][H:12].[H:9]>>[C:1]=[C:2]([C:3]([H:4])([H:5])[H:6])[C:7]([H:8])([H:9])[O:10][C:11][H:12],-3.97776210375
[C:10]([H:11])[H:12].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]#[C:8][H:9]>>[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.2235725418
[H:1][C:2][O:3][C@:4]1([H:5])[O:6][C:7]1[H:8]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][H:8],1.95380884794
[H:1][C:2]([H:3])([H:4])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([H:3])[C:5]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:4],4.03209088818
[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[O:1]=[C:2]([H:3])[O:4],1.29209846016
[H:1].[O:2]=[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])[H:15],-1.75204632871
[C:5]([H:6])([H:7])=[C:8]([H:9])[O:10][H:11].[H:1][O:2][C:3]#[C:4]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[O:10][H:11],-2.52484987074
